US07816522B2
(174c) 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid
After dissolving 167 mg of 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid methyl ester in 6 ml of a methanol:THF=2:1 mixed solvent, there was added 562 μl of a 5N aqueous sodium hydroxide solution and the mixture was stirred at room temperature for 15 hours. The mixture was adjusted to acidic with acetic acid and then concentrated under reduced pressure. The residue was dissolved in methanol, and the solution was filtered through celite and then purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% trifluoroacetic acid) to give the title compound (81 mg) as a light yellow solid.

reactant | 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid methyl ester | 167 mg | COC(=O)C1=NC(=CC=C1)N1N=C(NC1=O)C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCF)F | C28H25F2N7O6
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 6 ml | CO | CH4O
product | 6-(3-{[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)pyridine-2-carboxylic acid | 81 mg | FC1=C(C=C(C=C1OCCF)OC)C(C1=NN(C(N1)=O)C1=CC=CC(=N1)C(=O)O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H23F2N7O6
